datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COCCCC[NH+:21](c1ccccc1)[H:20].FC(F)(F)c1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1>>COCCCC[NH:21]c1ccccc1.FC(F)(F)c1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"CCC[S-:10].O=[N+]([O-])c1ccc([NH+:21](CO)[H:20])cc1>>CCC[S:10][H:20].O=[N+]([O-])c1ccc([NH:21]CO)cc1 10=20;20,21=21",
"CC(C)=CCC1C(=O)C(CC=C(C)C)(CC=C(C)C)C(O)(C(=O)[O-:10])C1=O.Clc1ccc([O:21][H:20])cc1>>CC(C)=CCC1C(=O)C(CC=C(C)C)(CC=C(C)C)C(O)(C(=O)[O:10][H:20])C1=O.Clc1ccc([O-:21])cc1 10=20;20,21=21",
"CC[N:10]1CCOCC1.N#CC(C#N)=N[N:21](c1ccccc1[N+](=O)[O-])[H:20]>>CC[N+:10]1([H:20])CCOCC1.N#CC(C#N)=N[N-:21]c1ccccc1[N+](=O)[O-] 10=20;20,21=21",
"Cc1ccc(C(=O)[O-])c([O-:10])c1.O=C(COc1ccccc1)[O:21][H:20]>>Cc1ccc(C(=O)[O-])c([O:10][H:20])c1.O=C(COc1ccccc1)[O-:21] 10=20;20,21=21",
"CCC[NH:10]C(C)C.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCC[NH+:10](C(C)C)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C=CC(=O)OCC[N:10](C)C.O/C(c1ccccc1)=[O+:21]\[H:20]>>C=CC(=O)OCC[N+:10](C)(C)[H:20].OC(c1ccccc1)=[O:21] 10=20;20,21=21",
"CC(C)Cc1ccc(C(C)C(=O)[O:21][H:20])cc1.CCCOC(=S)[N-:10]C(C)=O>>CC(C)Cc1ccc(C(C)C(=O)[O-:21])cc1.CCCOC(=S)[N:10](C(C)=O)[H:20] 10=20;20,21=21",
"COc1c(C)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].Nc1scc[n:10]1>>COc1c(C)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.Nc1scc[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NNC(=O)C(Cc1ccccc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NNC(=O)C(Cc1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"C#CC[N:10](C)C.Oc1ccc([O:21][H:20])c2cccnc12>>C#CC[N+:10](C)(C)[H:20].Oc1ccc([O-:21])c2cccnc12 10=20;20,21=21",
"CC1=[N+:21]([H:20])CCS1.OCCCNc1nc(NCCCO)[n:10]c(NCCCO)n1>>CC1=[N:21]CCS1.OCCCNc1nc(NCCCO)[n+:10]([H:20])c(NCCCO)n1 10=20;20,21=21",
"COc1cc(C[NH+](C)C)c([O-:10])c(C[NH+](C)C)c1.Cc1ccc2ccc[n+:21]([H:20])c2c1>>COc1cc(C[NH+](C)C)c([O:10][H:20])c(C[NH+](C)C)c1.Cc1ccc2ccc[n:21]c2c1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20].COc1ccc(C(=O)[O-:10])cc1C>>CCCCCCCCCCCCCCCCCC[N:21](CC(O)CC)CC(O)CC.COc1ccc(C(=O)[O:10][H:20])cc1C 10=20;20,21=21",
"COc1cc(CO)ccc1[O-:10].N#Cc1ccccc1[NH2+:21][H:20]>>COc1cc(CO)ccc1[O:10][H:20].N#Cc1ccccc1[NH2:21] 10=20;20,21=21",
"N#CC(C#N)=N[N-:10]c1cccc(Cl)c1Cl.O=C(c1cc2ccccc2s1)[O:21][H:20]>>N#CC(C#N)=N[N:10](c1cccc(Cl)c1Cl)[H:20].O=C(c1cc2ccccc2s1)[O-:21] 10=20;20,21=21",
"C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20].O=C([O-])C[O-:10]>>C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1.O=C([O-])C[O:10][H:20] 10=20;20,21=21",
"COc1ccc([NH2+:21][H:20])cc1C[NH3+].Cc1cc([O-])[nH+]c([S-])[n:10]1>>COc1ccc([NH2:21])cc1C[NH3+].Cc1cc([O-])[nH+]c([S-])[n+:10]1[H:20] 10=20;20,21=21",
"CCc1cc(C(=O)[O-])[n+:21]([H:20])cc1CC.O=S(=O)(Cc1ccccc1)c1cnn[n-:10]1>>CCc1cc(C(=O)[O-])[n:21]cc1CC.O=S(=O)(Cc1ccccc1)c1cnn[n:10]1[H:20] 10=20;20,21=21",
"CC(C(O)c1ccccc1)[NH:10]C.O=C(C(CO)[NH2+]Cc1ccccc1O)[O:21][H:20]>>CC(C(O)c1ccccc1)[NH+:10](C)[H:20].O=C(C(CO)[NH2+]Cc1ccccc1O)[O-:21] 10=20;20,21=21",
"CN(c1ccccc1)C([O-])[OH+:21][H:20].Cc1ccc([O-:10])c(Cc2cc(C)cc([N+](=O)[O-])c2[O-])c1>>CN(c1ccccc1)C([O-])[OH:21].Cc1ccc([O:10][H:20])c(Cc2cc(C)cc([N+](=O)[O-])c2[O-])c1 10=20;20,21=21",
"CC(C)c1cccc2ccc([O-:10])cc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)c1cccc2ccc([O:10][H:20])cc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CSc1c2ccccc2cc[n+:21]1[H:20].Cc1[nH]c2ccccc2c1CC(=O)[O-:10]>>CSc1c2ccccc2cc[n:21]1.Cc1[nH]c2ccccc2c1CC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(CC1CCCCC1)[NH2:10].O=C1CSc2ncnc(N3CCOCC3)c2[N:21]1[H:20]>>CC(CC1CCCCC1)[NH2+:10][H:20].O=C1CSc2ncnc(N3CCOCC3)c2[N-:21]1 10=20;20,21=21",
"CCCCNc1nc[n+:21]([H:20])c2c1cnn2C.[O-]c1c(Cl)cc(Cl)cc1C[N:10]1CCOCC1>>CCCCNc1nc[n:21]c2c1cnn2C.[O-]c1c(Cl)cc(Cl)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"C1CCC(C2=[N+:21]([H:20])CCC2)CC1.O=C1C=C(C(=O)[O-:10])C=C(c2ccccc2)O1>>C1CCC(C2=[N:21]CCC2)CC1.O=C1C=C(C(=O)[O:10][H:20])C=C(c2ccccc2)O1 10=20;20,21=21",
"CNCC(C)C[NH:10]C.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CNCC(C)C[NH+:10](C)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"O=C1Cc2c1ccc([O-:10])c2[N+](=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C1Cc2c1ccc([O:10][H:20])c2[N+](=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.O=C([O-])[C@@H]1C[C@@H](O)C[NH:10]1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.O=C([O-])[C@@H]1C[C@@H](O)C[NH+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCO[Si](C)(C[NH2:10])OCC>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCO[Si](C)(C[NH2+:10][H:20])OCC 10=20;20,21=21",
"CC(=Nc1ccccc1O)c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=Nc1ccccc1O)c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
